US08445490B2
To a suspension of methyl 4-(4-chloro-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (600 mg) in THF (20 mL) was added tert-butyl 8-aminooctylcarbamate hydrochloride (465 mg) and iPr2NEt (0.578 mL). The mixture was heated at 70° C. for 16 hours. The solvent was removed under vacuum. The residue was purified by silica gel column (EtOAC/Hexanes=4:1) to give methyl 4-(4-(8-(tert-butoxycarbonylamino)octylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (0.57 g).

reactant | methyl 4-(4-chloro-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 600 mg | ClC1=NC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)OC)C=C1 | C13H10ClF3N4O3
reactant | tert-butyl 8-aminooctylcarbamate hydrochloride | 465 mg | Cl.NCCCCCCCCNC(OC(C)(C)C)=O
reactant | iPr2NEt | 0.578 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 4-(4-(8-(tert-butoxycarbonylamino)octylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 0.57 g | C(C)(C)(C)OC(=O)NCCCCCCCCNC1=NC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)OC)C=C1 | C26H37F3N6O5
